### ISSUE TITLE
Solution for `double_neg_intro` in `21_cases_have/have1.lean` does not use `have`

### ISSUE THREAD

**Issue by pete-murphy** [SamuelSchlesinger/leanlings#5]
[The solution does not use `have`](https://github.com/SamuelSchlesinger/leanlings/blob/6ec80281ca6544a085aa5fb60cdf7b7ca50abc69/.solutions/21_cases_have/have1.lean#L5-L7)
```lean
theorem double_neg_intro (P : Prop) (hp : P) : ¬¬P := by
  intro hn
  exact hn hp
```
but [the instructions are specifically to use `have`](https://github.com/SamuelSchlesinger/leanlings/blob/6ec80281ca6544a085aa5fb60cdf7b7ca50abc69/exercises/21_cases_have/have1.lean#L22-L24)
```lean
-- Use have to establish an intermediate fact
theorem double_neg_intro (P : Prop) (hp : P) : ¬¬P := by
  sorry
```

---

I haven't resorted to LLM assistance yet, and am unsure how to complete this exercise. I guessed my way to:
```lean
theorem double_neg_intro (P : Prop) (hp : P) : ¬¬P := by
  have hnotnotp : Not (Not P) := by simp [hp]
  exact hnotnotp
```
but I can't imagine that's the intended solution 😄 . Unless I'm missing something, I can't use `have` to introduce a `False` proposition, because unlike `intro` you have to provide a proof? Like it seems like there's no way of filling in the `???` in
```lean
theorem double_neg_intro (P : Prop) (hp : P) : ¬¬P := by
  have hnotp : Not P := by ???
  nomatch hnotp
```

**Comment by SamuelSchlesinger** [comment]
Fixed in #12 (merged to main). The `double_neg_intro` solution now genuinely uses `have`: `have contra : False := hn hp`, and the exercise gives a step-by-step hint toward it.
